US05677302
A mixture of 2-butyl-1,2,4-thiadiazolo[4,5-a]benzimidazole-3(2H)-one (6.0 g, 24.3 mmole) and benzoyl cyanide (6.36 g, 48.5 mmole) in 80 mL of dichloromethane was stirred at room temperature for 24 h. The precipitate was filtered and washed with dichloromethane. The crude product was recrystallized from acetone to give 6.48 g (96%) of 3-(oxophenylmethyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole as yellow crystals: mp 190°-191° C.; 1H NMR (CDCl3) δ8.35 (d, 3H), 7.82 (d, 1H), 7.73 (t, 1H), 7.59 (t, 2H), 7.50 (t, 1H), 7.36 (t, 1H) ppm; 13C NMR (CDCl3) δ180.86, 163.69, 150.82, 146.70, 134.79, 134.34, 131.22 (2C), 129.46 (2C), 128.74, 125.82, 122.27, 119.49, 115.23 ppm; IR (KBr) ν1671 cm-1 ; HRMS calcd for C15H9N3OS: 279.0466, found: 279.0475. Anal. Calcd for C15H9N3OS: C, 64.50; H, 3.25; N, 15.04. Found: C, 63.93; H, 3.10; N, 14.53.

reactant | 2-butyl-1,2,4-thiadiazolo[4,5-a]benzimidazole-3(2H)-one | 24.3 mmole, 6.0 g | C(CCC)N1SC2=NC3=C(N2C1=O)C=CC=C3 | C12H13N3OS
reactant | benzoyl cyanide | 48.5 mmole, 6.36 g | C(C1=CC=CC=C1)(=O)C#N | C8H5NO
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 3-(oxophenylmethyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole | 6.48 g, 96% | O=C(C1=NSC2=NC3=C(N21)C=CC=C3)C3=CC=CC=C3 | C15H9N3OS
